US06464904B1
In a reaction vessel, 15 ml of dry N,N-dimethylformamide (DMF) and 0.77 g (19.3 mM) of NaH (60 W in mineral oil) were placed. Then, 0.92 g (2.84 mM) of 2,3,6,7,10,11-hexahydroxytriphenylene was added thereto on a water bath, and after 1 hour of stirring, a mixture liquid of 6.4 g (23.3 mM of 1,4,7-trioxaoctyl p-toluenesulfonate and 5 ml of dry DMF was added dropwise thereto, followed by 5 hours of stirring at 80° C. After the reaction, water was added to the reaction mixture, followed by extraction two times with toluene. The extract was washed with water and dried with anhydrous sodium sulfate, followed by distilling-off the solvent and purification three times by silica gel column chromatography (eluent: chloroform to obtain 0.14 g (0.15 mM) of 2,3,6,7,10,11-hexa(1,4,7-trioxaoctyl)triphenylene (Yield: 5%), which showed a melting point of 54 ° C.

reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | NaH | 19.3 mM, 0.77 g | [H-].[Na+]
reactant | 2,3,6,7,10,11-hexahydroxytriphenylene | 2.84 mM, 0.92 g | OC1=CC=2C3=CC(=C(C=C3C3=CC(=C(C=C3C2C=C1O)O)O)O)O | C18H12O6
reactant | 1,4,7-trioxaoctyl p-toluenesulfonate | 23.3 mM | C1(=CC=C(C=C1)S(=O)(=O)OOCCOCCOC)C | C12H18O6S
reactant | DMF | 5 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 2,3,6,7,10,11-hexa(1,4,7-trioxaoctyl)triphenylene | 0.15 mM, 0.14 g, Yield: 5% | O(CCOCCOC)C1=CC=2C3=CC(=C(C=C3C3=CC(=C(C=C3C2C=C1OCCOCCOC)OCCOCCOC)OCCOCCOC)OCCOCCOC)OCCOCCOC | C48H72O18
